US07790741B2
1-(3-(6-(6-(4-Fluorophenyl)imidazo[2,1-b]oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)pyrrolidin-1-yl)ethanone
To a suspension of 6-(4-fluorophenyl)-5-(3-(pyrrolidin-3-yl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)imidazo[2,1-b]oxazole (0.100 g, 0.26 mmol; Example #M.1.1.3) in DCM (5 mL) was added TEA (0.04 mL, 0.26 mmol) and acetyl chloride (0.02 mL, 0.26 mmol). The reaction mixture was stirred at ambient temperature for about 16 h. The crude reaction mixture was purified by flash chromatography (silica gel; DCM/MeOH gradient from 99:1 to 90:10) to afford the title compound (0.02 g, 17%). LC/MS (Table 1, Method a) Rt=1.79 min; MS m/z: 431.1 (M+H)+.

reactant | 6-(4-fluorophenyl)-5-(3-(pyrrolidin-3-yl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)imidazo[2,1-b]oxazole | 0.26 mmol, 0.100 g | FC1=CC=C(C=C1)C=1N=C2OC=CN2C1C=1C=CC=2N(C1)C(=NN2)C2CNCC2 | C21H17FN6O
reactant | acetyl chloride | 0.26 mmol, 0.02 mL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-(6-(6-(4-Fluorophenyl)imidazo[2,1-b]oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)pyrrolidin-1-yl)ethanone | 0.02 g, 17% | FC1=CC=C(C=C1)C=1N=C2OC=CN2C1C=1C=CC=2N(C1)C(=NN2)C2CN(CC2)C(C)=O | C23H19FN6O2
